US09427475B2
Step G: 2-azidoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-4-O-benzyl-2-deoxy-2-fluoro-β-D-glucopyranoside
To a solution of 2-azidoethyl 2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→3)-[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→6)]-4-O-benzyl-2-deoxy-2-fluoro-β-D-glucopyranoside (5.0 g, 3.34 mmol) in CH3OH (40 mL) was added NaOCH3 (1.0 mL, 0.5 mmol, 0.5 M in CH3OH). After stirring at rt for 24 hr, amberlite IR 120 (H) ion exchange resin (pre-washed with CH3OH 3×30 mL) was added to the reaction mixture. After 15 min, the resin was filtered off and washed with CH3OH (3×5 mL). The filtrate was concentrated and the residue was taking into EtOAc (50 mL) and stirred for 2 hr. The solid was filtered, and washed with EtOAc (3×15 mL) and dried to give the title compound. UPLC Method B: calculated for C27H40FN3O15 665.24, observed m/e: 666.35 [M+1]; Rt=2.03 min.

reactant | 2-azidoethyl 2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→3)-[2,3,4,6-tetra-O-benzoyl-α-D-mannopyranosyl-(1→6)]-4-O-benzyl-2-deoxy-2-fluoro-β-D-glucopyranoside | 3.34 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)O[C@@H]1[C@H]([C@H](OCCN=[N+]=[N-])O[C@@H]([C@H]1OCC1=CC=CC=C1)CO[C@@H]1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O)F | C83H72FN3O23
reactant | NaOCH3 | 0.5 mmol, 0.5 M, 1.0 mL | O([Na])C
solvent | CH3OH | 40 mL | CO | CH4O
product | 2-azidoethyl α-D-mannopyranosyl-(1→3)-[α-D-mannopyranosyl-(1→6)]-4-O-benzyl-2-deoxy-2-fluoro-β-D-glucopyranoside | [C@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@@H]1[C@H]([C@H](OCCN=[N+]=[N-])O[C@@H]([C@H]1OCC1=CC=CC=C1)CO[C@@H]1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)F | C27H40FN3O15
